US04038407
a. 2-Methyl-4,5-dimethoxy-benzene sulfochloride
23.2 gm (0.2 mol) of chlorosulfonic acid were slowly added dropwise to 15.2 gm (0.1 mol) of 3,4-dimethoxy-toluene at about - 10° C., while stirring and cooling. Afterwards, the mixture was allowed to warm to room temperature, and was then stirred until the evolution of hydrogen chloride ceased. The reaction mixture was poured over ice, and the precipitated sulfochloride was extracted with ether. The organic phase was successively washed with sodium bicarbonate solution and water, and then evaporated to dryness in vacuo. A turbid oil was obtained as a residue, which solidified after cooling. Rf -value (benzene): 0.5.

reactant | chlorosulfonic acid | 0.2 mol, 23.2 gm | ClS(=O)(=O)O | ClHO3S
reactant | 3,4-dimethoxy-toluene | 0.1 mol, 15.2 gm | COC=1C=C(C=CC1OC)C | C9H12O2
reactant | hydrogen chloride | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-Methyl-4,5-dimethoxy-benzene sulfochloride | S(=O)(=O)(O)Cl.CC1=CC=C(C(=C1)OC)OC | InChI=1S/C9H12O2.ClHO3S/c1-7-4-5-8(10-2)9(6-7)11-3;1-5(2,3)4/h4-6H,1-3H3;(H,2,3,4)
